US09102625B2
6-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(thiophen-2-ylmethylamino)nicotinamide
A mixture of 6-chloro-4-(thiophen-2-ylmethylamino)nicotinamide (84 mg, 0.314 mmol), 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (82 mg, 0.374 mmol), Cs2CO3 (200 mg, 0.613 mmol), BINAP (35 mg, 0.056 mmol) and Pd(OAc)2 (25 mg, 0.111 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 120 C for 3 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to the titled compound (12 mg). MS 451.4 (M+H); UV 200.0, 244.3 nm; t 0.485 min.

reactant | 6-chloro-4-(thiophen-2-ylmethylamino)nicotinamide | 0.314 mmol, 84 mg | ClC1=NC=C(C(=O)N)C(=C1)NCC=1SC=CC1 | C11H10ClN3OS
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 0.374 mmol, 82 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | Cs2CO3 | 0.613 mmol, 200 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | BINAP | 0.056 mmol, 35 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.111 mmol, 25 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(thiophen-2-ylmethylamino)nicotinamide | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=O)N)C(=C1)NCC=1SC=CC1 | C23H26N6O2S
